US08802659B2
2-((trans)-4-tert-butylcyclohexyloxy)quinoline-6-carbaldehyde
6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinoline (115 mg, 0.317 mmol) in tetrahydrofuran (2.6 mL, 32 mmol) was added 2.0 M of n-butyllithium in cyclohexane (0.48 mL, 0.95 mmol) at −78° C. and was stirred for 15 min. N,N-dimethylformamide (0.12 mL, 1.6 mmol) was added and was stirred for 30 minutes. When the reaction completed, 1 M HCl was added and after 5 min at −78° C., sat. NaHCO3 was added and extracted with EtOAc. The organic layer was concentrated and purified by silica gel chromatography using PE/EA (0-50%) as eluent to give product as a gel (30.6 mg, 31%). LCMS Rt=2.49 min m/z=312.51 ([M+1], 100%).

reactant | 6-Bromo-2-(4-tert-butyl-cyclohexyloxy)-quinoline | 0.317 mmol, 115 mg | BrC=1C=C2C=CC(=NC2=CC1)OC1CCC(CC1)C(C)(C)C | C19H24BrNO
reactant | tetrahydrofuran | 32 mmol, 2.6 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium | 2.0 M | C(CCC)[Li]
reactant | cyclohexane | 0.95 mmol, 0.48 mL | C1CCCCC1 | C6H12
reactant | N,N-dimethylformamide | 1.6 mmol, 0.12 mL | CN(C=O)C | C3H7NO
reactant | HCl | 1 M | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-((trans)-4-tert-butylcyclohexyloxy)quinoline-6-carbaldehyde | 30.6 mg, 31% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=NC2=CC=C(C=C2C=C1)C=O | C20H25NO2
